US04705850
Ninety mg (0.203 mmoles) of (E)-1-(2,3,6-trideoxy-4-O-p-nitrobenzoyl-3-trifluoroacetamido-α-L-lyxo-hexopyranosyl)-2,4-pentadiene and 22.0 mg (0.140 mmoles) of 1,4 naphthoquinone were mixed in 10 ml toluene and the mixture was heated under N2 at 80°-88° C. for 4 hr. The reaction was chilled to 0° C. and filtered to give 55 mg (65%) 1,4,4a,9a-tetrahydro-1-[(2,3,6-trideoxy-4-O-p-nitrobenzoyl-3-trifluoroacetamido-α-L-lyxo-hexo-pyranosyl)methyl]-anthracene-9,10-dione in impure form.

reactant | (E)-1-(2,3,6-trideoxy-4-O-p-nitrobenzoyl-3-trifluoroacetamido-α-L-lyxo-hexopyranosyl)-2,4-pentadiene | 0.203 mmoles, Ninety mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2[C@H](C[C@@H](O[C@H]2C)C\C=C\C=C)NC(C(F)(F)F)=O)C=C1 | C20H21F3N2O6
reactant | 1,4 naphthoquinone | 0.140 mmoles, 22.0 mg | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4,4a,9a-tetrahydro-1-[(2,3,6-trideoxy-4-O-p-nitrobenzoyl-3-trifluoroacetamido-α-L-lyxo-hexo-pyranosyl)methyl]-anthracene-9,10-dione | 55 mg, 65% | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2[C@H](C[C@@H](O[C@H]2C)CC2C=CCC3C(C4=CC=CC=C4C(C23)=O)=O)NC(C(F)(F)F)=O)C=C1 | C30H27F3N2O8
